US04125732
Methyl 2-(p-tert.-butylphenoxy)-2-{p-[3-(p-chlorophenoxy)propoxy]phenyl}propionat
A solution of 2.7 ml of N,N-diisopropylamine in 15 ml of tetrahydrofuran under argon is stirred and cooled to 0° C. To the solution is added dropwise 8.5 ml of 2M n-butyllithium in hexane. The solution is cooled to -70° C. and a solution of 7.24 g of methyl(p-tert.-butylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate in 15 ml of tetrahydrofuran is added dropwise. After stirring at -70° C. for 30 minutes, 1.87 ml of methyl iodide is added and the mixture is stirred while slowly allowing to warm to room temperature. The mixture is poured into 100 ml of water and is extracted with ether. The ether extract is washed with 10% HCl, water, saturated NaCl and dried (MgSO4). The solvent is removed under reduced pressure to give 7.5 g of a clear gum. Chromatography over silica gel with dichloromethane-hexane as eluent gives 5.6 g of colorless gum.

reactant | N,N-diisopropylamine | 2.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2M, 8.5 ml | C(CCC)[Li]
reactant | methyl(p-tert.-butylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 7.24 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C(C)(C)C)=O | C28H31ClO5
reactant | methyl iodide | 1.87 ml | CI | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | Methyl 2-(p-tert.-butylphenoxy)-2-{p-[3-(p-chlorophenoxy)propoxy]phenyl}propionat | 7.5 g | C(C)(C)(C)C1=CC=C(OC(C(=O)OC)(C)C2=CC=C(C=C2)OCCCOC2=CC=C(C=C2)Cl)C=C1 | C29H33ClO5
